US09101616B2
Step-2: (1S*,2S*)-2-(phenoxymethyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cy clopropanecarboxamide
To a mixture of (1S*,2S*)-2-(hydroxymethyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cy clopropanecarboxamide (30 mg, 0.094 mmol) and phenol (16.0 mg, 0.17 mmol) in tetrahydrofuran (1 mL), triphenylphosphine (45 mg, 0.17 mmol) and di-tert-butyl azodicarboxylate (28.2 mg, 0.12 mmol) were added successively. After stirring at room temperature for 1 day, the mixture was poured into water, and the aqueous layer was extracted with dichloromethane three times. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. The residue was purified by preparative LC-MS to give 12.1 mg (33% yield) of the title compound.

reactant | (1S*,2S*)-2-(hydroxymethyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cy clopropanecarboxamide | 0.094 mmol, 30 mg | OC[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C14H17F3N2O3
reactant | phenol | 0.17 mmol, 16.0 mg | C1(=CC=CC=C1)O | C6H6O
reactant | triphenylphosphine | 0.17 mmol, 45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.12 mmol, 28.2 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (1S*,2S*)-2-(phenoxymethyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cy clopropanecarboxamide | 12.1 mg, 33% yield | O(C1=CC=CC=C1)C[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C20H21F3N2O3
